US09303041B2
2-(4-Cyano-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile
To a suspension of sodium hydride (60%, 0.58 g) in THF (2 mL), was added 4-fluoro-3-nitro-benzonitrile (1.33 g, 8.0 mmol) and 2-amino-5-methyl-thiophene-3-carbonitrile (1.10 g, 8.0 mmol) in THF (10 mL), dropwise. The mixture was stirred at room temperature overnight. Two more batches of sodium hydride (60%, 0.50 g and 0.4 g) were added over the next 6 hours. After stirring for 3 days, the mixture was poured into ice-water (20 mL) and acidified to pH 3 with 6N hydrochloric acid (7 mL). The precipitate was filtered and washed with water. The solid was extracted with dichloromethane (35 mL). The solution was concentrated to a solid, and used in the next step without additional purification. LC-MS: m/z 285 (M+1), 307 (M+23). 1H NMR (CDCl3, 400 MHz): δ (ppm) 9.76 (s, 1H), 8.59 (s, 1H), 7.70 (d, 1H), 7.14 (d, 1H), 6.87 (s, 1H), 2.52 (s, 1H).

reactant | sodium hydride | 0.58 g | [H-].[Na+]
reactant | 4-fluoro-3-nitro-benzonitrile | 8.0 mmol, 1.33 g | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | 2-amino-5-methyl-thiophene-3-carbonitrile | 8.0 mmol, 1.10 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | sodium hydride | 0.50 g | [H-].[Na+]
reactant | hydrochloric acid | 6N, 7 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-Cyano-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | C(#N)C1=CC(=C(C=C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C13H8N4O2S
